US08871934B2
azetidine-3-carboxylic acid dimethylamide hydrochloride
A mixture of t-butyl 3-dimethylcarbamoyl-azetidine-1-carboxylate (0.365 g) and 4N hydrogen chloride/dioxane solution (5 ml) was stirred at room temperature for 5 hr 15 min. The reaction mixture was concentrated under reduced pressure, dioxane was added to the obtained residue and the mixture was concentrated again under reduced pressure. The obtained residue was dried under reduced pressure at 60° C. to give the title compound (0.290 g). The obtained residue was directly used for the next reaction without further purification.

reactant | t-butyl 3-dimethylcarbamoyl-azetidine-1-carboxylate | 0.365 g | CN(C(=O)C1CN(C1)C(=O)OC(C)(C)C)C | C11H20N2O3
reactant | hydrogen chloride dioxane | 4N, 5 ml | Cl.O1CCOCC1
product | azetidine-3-carboxylic acid dimethylamide hydrochloride | 0.290 g | Cl.CN(C(=O)C1CNC1)C | InChI=1S/C6H12N2O.ClH/c1-8(2)6(9)5-3-7-4-5;/h5,7H,3-4H2,1-2H3;1H
